US07135480B2
3-Cyano-1-[hydroxy-(4-imidazol-1-yl-phenyl)-methyl] -pyrrolo[1,2-a]quinoline
To a solution of 3-cyano-1-(4-imidazol-1-yl-benzoyl)-pyrrolo[1,2-a]quinoline (40 mg, 0.11 mmol) in 1:1 methanol/chloroform (10 mL) was added sodium borohydride portion-wise over 1 h and the reaction mixture was stirred overnight. It was worked up as described in Example 22 and the crude was purified by chromatography (5% methanol/chloroform) to yield the title compound (38.4 mg, 95%). 1H NMR (CDCl3/MeOH-d4): 8.80 (d, J=8.7 Hz, 1H), 7.93 (s, 1H), 7.80 (dd, J=7.8, 1.5 Hz, 1H), 7.53 (m, 8H), 7.38 (t, J=1.2 Hz, 1H), 7.12 (s, 1H), 6.57 (s, broad, 2H).

reactant | 3-cyano-1-(4-imidazol-1-yl-benzoyl)-pyrrolo[1,2-a]quinoline | 0.11 mmol, 40 mg | C(#N)C=1C=C(N2C1C=CC1=CC=CC=C21)C(C2=CC=C(C=C2)N2C=NC=C2)=O | C23H14N4O
reactant | sodium borohydride | [BH4-].[Na+]
solvent | methanol chloroform | 10 mL | CO.C(Cl)(Cl)Cl
product | 3-Cyano-1-[hydroxy-(4-imidazol-1-yl-phenyl)-methyl] -pyrrolo[1,2-a]quinoline | 38.4 mg, 95% | C(#N)C=1C=C(N2C1C=CC1=CC=CC=C21)C(C2=CC=C(C=C2)N2C=NC=C2)O | C23H16N4O
